US09303033B2
Diisopropylethylamine (2.4 mL, 13.62 mmol) and cyclopropylamine (943 μL, 13.62 mmol) were added to commercially available (Ark Pharm, Inc.) 6,8-dibromoimidazo[1,2-a]pyrazine (2.51 g, 9.08 mmol) dissolved in 2-propanol (9 mL). The solution was placed in an 80° C. oil bath. After 4.5 h, the volatiles were removed in vacuo. The brown residue was partitioned between dichloromethane (50 mL) and water (50 mL). The organic layer was washed further with water (50 mL) and then brine (50 mL). The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The residue was purified via a filtration over a short plug of silica gel (40% EtOAc/hexanes) and the filtrate was concentrated in vacuo to afford 6-bromo-N-cyclopropylimidazo[1,2-a]pyrazin-8-amine (2.19 g, 95%) as a light brown solid. 1H NMR (CDCl3, 400 MHz) δ: 7.61 (s, 1H), 7.46 (d, 1H, J=1.2 Hz), 7.44 (d, 1H, J=1.2 Hz), 6.26 (bs, 1H), 3.02 (dddd, 1H, J=7.2, 7.2, 7.2, 3.6 Hz), 0.89-0.95 (m, 2H), 0.64-0.69 (m, 2H).

reactant | Diisopropylethylamine | 13.62 mmol, 2.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopropylamine | 13.62 mmol, 943 μL | C1(CC1)N | C3H7N
reactant | 6,8-dibromoimidazo[1,2-a]pyrazine | 9.08 mmol, 2.51 g | BrC=1N=C(C=2N(C1)C=CN2)Br | C6H3Br2N3
solvent | 2-propanol | 9 mL | CC(C)O | C3H8O
product | 6-bromo-N-cyclopropylimidazo[1,2-a]pyrazin-8-amine | 2.19 g, 95% | BrC=1N=C(C=2N(C1)C=CN2)NC2CC2 | C9H9BrN4
